US07781586B2
(E)/(Z)-Diethyl 2-[3-cyano-2-propenyl]malonate
A solution of 100.0 mg (0.48 mmol) diethyl allylmalonate, 77.4 mg (1.45 mmol) acrylonitrile and 35.0 mg (0.05 mmol) [RuCl2(ImH2Mes)((4-chloro-2-trifluoromethyl-8-quinolinyl)methylene)] in 5 ml toluene was stirred at 110° C. To monitor the conversion and selectivity, 0.05-ml samples were taken were taken after 3 h and 40 h. Each sample was filtered over a silica gel pad, the filtrate was evaporated to dryness and analyzed by GC (column: HP-5, 5% phenyl methyl siloxan (Agilent 19091-413); injector: 250° C.; detector: 250° C.; oven: 100 to 150° C./5° C. per min, 5 min at 150° C., 150 to 200° C./5° C. per min and 200 to 300° C./20° C. per min; carrier gas: He (0.46 bar); retention times: 9.2 min diethyl allylmalonate, 17.5 min (Z)-diethyl 2-[3-cyano-2-propenyl]malonate and 18.8 min (E)-diethyl 2-[3-cyano-2-propenyl]malonate). After 3 h (66% conversion), 57% of the title compound and after 40 h (94% conversion) 83% of the title compound as an (E):(Z) mixture of 1:2 was formed. After evaporation of the solvent under reduced pressure, the crude product was purified by silica gel chromatography (cyclohexane/ethyl acetate 8:2) to yield 65.1 mg (60%) of the title compound as a (E):(Z) mixture of 1:2. MS: 226.3 (M+). 1H-NMR of diethyl 2-[3-cyano-2-propenyl]malonate (300 MHz, C6D6): (Z)-isomer: 1.29 (t, J=7.1 Hz, 6H); 2.99 (td, J=7.1, 1.5 Hz, 2H); 3.51 (t, J=7.0 Hz, 1H); 4.20-4.24 (m, 4H); 5.40-5.42 (m, 1H); 6.54 (m, 1H). (E)-isomer: 1.28 (t, J=7.1 Hz, 6H); 2.79 (td, J=7.1, 1.5 Hz, 2H); 3.46 (t, J=7.1 Hz, 1H); 4.20-4.24 (m, 4H); 5.40-5.42 (m, 1H); 6.68 (m, 1H).

reactant | diethyl allylmalonate | 0.48 mmol, 100.0 mg | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | acrylonitrile | 1.45 mmol, 77.4 mg | C(C=C)#N | C3H3N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-Diethyl 2-[3-cyano-2-propenyl]malonate | 65.1 mg, 60% | C(#N)\C=C/CC(C(=O)OCC)C(=O)OCC | C11H15NO4
